**************************************************
* Manufacturer:           Würth Elektronik 
* Kinds:                  SMT High Current Inductor
* Matchcode:              WE-LHMD
* Library Type:           LTspice
* Version:                rev22b
* Created/modified by:    Ella
* Date and Time:          12/21/2022
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1008_74434301008082_8.2u 1 2 3 4
Rdc1 1 N1 0.032
Rp1 1 4 7252.3
Cp1 1 4 25.0343p
L1 N1 4 8.7705u

Rdc2 2 N2 0.032
Rp2 2 3 7252.3
Cp2 2 3 25.0343p
L2 N2 3 8.7705u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1008_74434301008082_8.2u
*******
.subckt 1008_74434301008100_10u 1 2 3 4
Rdc1 1 N1 0.045
Rp1 1 4 5113.3
Cp1 1 4 26.6818p
L1 N1 4 11.023u

Rdc2 2 N2 0.045
Rp2 2 3 5113.3
Cp2 2 3 26.6818p
L2 N2 3 11.023u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1008_74434301008100_10u
*******
.subckt 1008_74434301008150_15u 1 2 3 4
Rdc1 1 N1 0.065
Rp1 1 4 8056.8
Cp1 1 4 32.5349p
L1 N1 4 16.8001u

Rdc2 2 N2 0.065
Rp2 2 3 8056.8
Cp2 2 3 32.5349p
L2 N2 3 16.8001u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1008_74434301008150_15u
*******
.subckt 1008_74434301008220_22u 1 2 3 4
Rdc1 1 N1 0.104
Rp1 1 4 5417.6
Cp1 1 4 29.3528p
L1 N1 4 24.0641u

Rdc2 2 N2 0.104
Rp2 2 3 5417.6
Cp2 2 3 29.3528p
L2 N2 3 24.0641u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1008_74434301008220_22u
*******
.subckt 1213_74434301213082_8.2u 1 2 3 4
Rdc1 1 N1 0.016
Rp1 1 4 2176.4706
Cp1 1 4 35.5882p
L1 N1 4 8.7647u

Rdc2 2 N2 0.016
Rp2 2 3 2176.4706
Cp2 2 3 35.5882p
L2 N2 3 8.7647u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1213_74434301213082_8.2u
*******
.subckt 1213_74434301213100_10u 1 2 3 4
Rdc1 1 N1 0.02
Rp1 1 4 1600
Cp1 1 4 37.9p
L1 N1 4 9.95u

Rdc2 2 N2 0.02
Rp2 2 3 1600
Cp2 2 3 37.9p
L2 N2 3 9.95u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1213_74434301213100_10u
*******
.subckt 1213_74434301213150_15u 1 2 3 4
Rdc1 1 N1 0.034
Rp1 1 4 1722.2222
Cp1 1 4 44.3889p
L1 N1 4 15.5556u

Rdc2 2 N2 0.034
Rp2 2 3 1722.2222
Cp2 2 3 44.3889p
L2 N2 3 15.5556u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1213_74434301213150_15u
*******
.subckt 1213_74434301213220_22u 1 2 3 4
Rdc1 1 N1 0.05
Rp1 1 4 3833.3333
Cp1 1 4 41.1111p
L1 N1 4 22.8889u

Rdc2 2 N2 0.05
Rp2 2 3 3833.3333
Cp2 2 3 41.1111p
L2 N2 3 22.8889u

Rq1 1 0 100meg
Rq2 2 0 100meg
Rq3 3 0 100meg
Rq4 4 0 100meg
.ends 1213_74434301213220_22u
*******
